US05030728
Into a 1 L round-bottomed flask equipped with a magnetic stirrer, a reflux condenser and a 250 ml addition funnel are placed 56.3 g (0.26 mol) of m-chloroperoxybenzoic acid (Note 12) and 350 mL of methylene chloride. The resulting suspension is stirred as a solution of 38.0 g (0.16 mol) of 9-n-butyl-1,2,3,4,5,6,7,8-octahydroacridine in 120 mL of methylene chloride is added rapidly. When the reaction mixture ceases to boil gently from the heat of reaction, the reaction flask is warmed to extend the reflux period to a total of 2.5 hrs. (Note 10). The reaction mixture is cooled to room temperature, extracted with 0.5 M aqueous sodium hydroxide (4× 450 mL), dried using anhydrous sodium sulfate and concentrated under reduced pressure using a rotary evaporator. Residual solvent is removed at 0.1 mm, yielding 40 g (99%) of 9-n-butyl-1,2,3,4,5,6,7,8-octahydroacridine-N-oxide as a yellow crystalline solid, mp 96-100° C.

reactant | m-chloroperoxybenzoic acid | 0.26 mol, 56.3 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | 9-n-butyl-1,2,3,4,5,6,7,8-octahydroacridine | 0.16 mol, 38.0 g | C(CCC)C=1C=2CCCCC2N=C2CCCCC12 | C17H25N
solvent | methylene chloride | 120 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 350 mL | C(Cl)Cl | CH2Cl2
product | 9-n-butyl-1,2,3,4,5,6,7,8-octahydroacridine-N-oxide | 40 g, 99% | C(CCC)C1=C2CCCCC2=[N+](C=2CCCCC12)[O-] | C17H25NO
